US04218472
(e) 2-Dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol
2-Piperidino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol, hydrogen oxalate, m.p. 179.5° C.

reactant | 2-Piperidino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | N1(CCCCC1)CC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C20H27NO
reactant | hydrogen oxalate | C(C(=O)[O-])(=O)O
product | 2-Dimethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | CN(CC(O)C1=CC2(C3=CC=CC=C13)CCCC2)C | C17H23NO
